US05112839
A solution of 280 mg of 2,2-dimethyl-4-(1-benzyl-1,2-dihydro-2oxo-3pyridyl)-6-bromo-3-chromanol is hydrogenated on 140 mg of 20% Pd-C in 80 ml of methanol at 20° and 1 bar, the mixture is filtered, the filtrate is evaporated and 2,2-dimethyl-4-(1,2-dihydro-2-oxo-3-pyridyl)-3-chromanol, m.p. 244°-246°, is obtained after chromatographic purification on silica gel.

reactant | 2,2-dimethyl-4-(1-benzyl-1,2-dihydro-2oxo-3pyridyl)-6-bromo-3-chromanol | 280 mg | CC1(OC2=CC=C(C=C2C(C1O)C=1C(N(C=CC1)CC1=CC=CC=C1)=O)Br)C | C23H22BrNO3
solvent | methanol | 80 ml | CO | CH4O
catalyst | Pd-C | 140 mg | [Pd] | Pd
product | 2,2-dimethyl-4-(1,2-dihydro-2-oxo-3-pyridyl)-3-chromanol | CC1(OC2=CC=CC=C2C(C1O)C=1C(NC=CC1)=O)C | C16H17NO3
